### PR TITLE
feat: add `BitVec.toFin_abs`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorem `BitVec.toFin_abs`, completing the API for `BitVec.*_abs`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3744,6 +3744,14 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
     x.abs.toInt = x.toInt.natAbs := by
   simp [toInt_abs_eq_natAbs, hx]
 
+theorem toFin_abs {x : BitVec w} :
+    x.abs.toFin = Fin.ofNat' (2 ^ w) x.abs.toNat  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3748]: This could, alternatively be: `= if x.msb then Fin.ofNat' (2 ^ w) (2^w - x.toNat) else x.toFin`.

I don't know the conventions very well. Did you think about this alternative, and do you know which one is preferable?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3748]: The full statement and proof is:

```lean
theorem toFin_abs' {x : BitVec w} :
    x.abs.toFin = if x.msb then Fin.ofNat' (2 ^ w) (2^w - x.toFin) else x.toFin := by
  rw [BitVec.abs]
  by_cases hx : x.msb
  · simp [hx]
  · simp [hx, ← BitVec.toFin_ofNat]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3744,6 +3744,14 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
...
+  simp only [toNat_abs]
+  rw [BitVec.abs, neg_eq]
+  by_cases hx : x.msb
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3751]:
```suggestion
  rw [BitVec.abs]
  by_cases hx : x.msb
```

`neg_eq` does not seem to be needed.

**Comment by tobiasgrosser** [comment]
> This PR adds theorem `BitVec.toFin_abs`.

Maybe add `With this PR, the basic API for BitVec.*_abs is complete`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3748]: I had not considered that rhs, but it seems more consistent with the `toNat` and `toInt` definitions, so I'll switch to that, thanks!

**Comment by tobiasgrosser** [comment]
Let's give @bollu a chance to look at it. If he has no further comments, this is ready to go. Thank you for the fast turnaround.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -4217,6 +4217,10 @@ theorem toInt_abs_eq_natAbs_of_ne_intMin {x : BitVec w} (hx : x ≠ intMin w) :
     x.abs.toInt = x.toInt.natAbs := by
   simp [toInt_abs_eq_natAbs, hx]
 
+theorem toFin_abs {x : BitVec w} :
+    x.abs.toFin = if x.msb then Fin.ofNat' (2 ^ w) (2^w - x.toNat) else x.toFin := by
+  by_cases hx : x.msb <;> simp [BitVec.abs, hx]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4222]:
```suggestion
    x.abs.toFin = if x.msb then Fin.ofNat' (2 ^ w) (2 ^ w - x.toNat) else x.toFin := by
  by_cases hx : x.msb <;> simp [BitVec.abs, hx]
```

Mini nit, for uniform use of ` `.

**Review by bollu — APPROVED** [review]
LGTM to me!

**Comment by luisacicolini** [comment]
awaiting-review

**Comment by luisacicolini** [comment]
changelog-library
